US07220862B2
(±)-2-Amino-3-(7-ethyl-1H-indazol-5-yl)-propionic acid methyl ester
To a solution of 2-benzyloxycarbonylamino-3-(7-ethyl-1H-indazol-5-yl)-acrylic acid methyl ester (330 mg, 0.78 mmol) in methanol (5 mL) under nitrogen was added palladium on charcoal (10%, 33 mg). The flask was flushed with hydrogen and allowed to stir under an atmosphere of hydrogen overnight. The reaction was flushed with nitrogen, filtered through celite, and concentrated to give 210 mg (98%) which was used without purification. 1H-NMR (CDCl3, 500 MHz) δ 1.34 (t, J=7.6, 3H), 2.85 (q, J=7.6, 2H), 2.96 (dd, J=13.7, 7.6, 1H), 3.19 (dd, J=13.7, 8.6, 1H), 3.48 (s, 2H), 3.73 (s, 3H), 3.80 (dd, J=7.6, 5.2, 1H), 6.99 (s, 1H), 7.38 (s, 1H), 7.97 (s, 1H). Mass spec.: 248.15 (MH)+.

reactant | 2-benzyloxycarbonylamino-3-(7-ethyl-1H-indazol-5-yl)-acrylic acid methyl ester | 0.78 mmol, 330 mg | COC(C(=CC=1C=C2C=NNC2=C(C1)CC)NC(=O)OCC1=CC=CC=C1)=O | C21H21N3O4
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on charcoal | 33 mg | [Pd] | Pd
product | (±)-2-Amino-3-(7-ethyl-1H-indazol-5-yl)-propionic acid methyl ester | COC(C(CC=1C=C2C=NNC2=C(C1)CC)N)=O | C13H17N3O2
